US07189733B2
Step A: Preparation of 2-(2-fluorobenzoyl)-amino-benzamide
2-Amino-benzamide (1 g, 7.3 mmol) was dissolved in chloroform (25 ml) in a 50 ml round bottomed flask and cooled to 0° C. Pyridine (0.6 ml, 7.3 mmol) was added followed by 2-fluoro-benzoyl chloride (1 ml, 8 mmol) and the mixture was magnetically stirred for 1 hr at this temperature. 10% Hydrochloric acid (50 ml) was added and the precipitated solid was filtered, washed with water and dried to yield pure title compound (1.56 g, 82%).

reactant | 2-Amino-benzamide | 7.3 mmol, 1 g | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
reactant | Pyridine | 7.3 mmol, 0.6 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-fluoro-benzoyl chloride | 8 mmol, 1 ml | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | Hydrochloric acid | 50 ml | Cl | ClH
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-fluorobenzoyl)-amino-benzamide | 1.56 g, 82% | FC1=C(C(=O)C2=C(C(=O)N)C=CC=C2N)C=CC=C1 | C14H11FN2O2
